US05589478
A mixture of 4-tert-butyl-N-{5-(4-methylphenyl)-6-[2-(4-nitrophenoxy)ethoxy]pyrimidin-4-yl}benzenesulfonamide (383 mg), 10% palladium-carbon (50 mg) and ethanol-tetrahydrofuran (6 ml-3 ml) is subjected to catalytic hydrogenation at room temperature under hydrogen atmosphere (1 atm) for two hours. The catalyst is removed by filtration, and the filtrate is concentrated. The residue is purified by silica gel column chromatography (solvent; chloroform/ethyl acetate=10:1), and recrystallized from ethyl acetate/diisopropyl ether to give N-{6-[2-(4-aminophenoxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}-4-tert-butylbenzenesulfonamide (358 mg).

reactant | 4-tert-butyl-N-{5-(4-methylphenyl)-6-[2-(4-nitrophenoxy)ethoxy]pyrimidin-4-yl}benzenesulfonamide | 383 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=CC=C(C=C1)[N+](=O)[O-] | C29H30N4O6S
catalyst | palladium-carbon | 50 mg | [C].[Pd]
solvent | ethanol tetrahydrofuran | 6 ml-3 ml | C(C)O.O1CCCC1
product | N-{6-[2-(4-aminophenoxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}-4-tert-butylbenzenesulfonamide | 358 mg | NC1=CC=C(OCCOC2=C(C(=NC=N2)NS(=O)(=O)C2=CC=C(C=C2)C(C)(C)C)C2=CC=C(C=C2)C)C=C1 | C29H32N4O4S
